US04354027
A. 1-Methyl-3-(2'-propanoyldiazanyl)-6-methoxy-1H-quinoxalin-2-one
Propionyl chloride (2.63 g., 28.4 mmol) is added dropwise to a solution of 3-hydrazino-1-methyl-6-methoxy-1H-quinoxalin-2-one (4.5 g., 23.7 mmol) and triethylamine (2.87 g., 28.4 mmol) in 250 ml. of dioxane and stirred at room temperature for four days. The dioxane is then removed under vacuum and the residue washed with water, filtered, and dried at 80° C. under high vacuum. The material is then recrystallized from ethanol, filtered and dried at 80° under high vacuum overnight to yield purified product.

reactant | Propionyl chloride | 28.4 mmol, 2.63 g | C(CC)(=O)Cl | C3H5ClO
reactant | 3-hydrazino-1-methyl-6-methoxy-1H-quinoxalin-2-one | 23.7 mmol, 4.5 g | N(N)C=1C(N(C2=CC=C(C=C2N1)OC)C)=O | C10H12N4O2
reactant | triethylamine | 28.4 mmol, 2.87 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Methyl-3-(2'-propanoyldiazanyl)-6-methoxy-1H-quinoxalin-2-one | CN1C(C(=NC2=CC(=CC=C12)OC)NNC(CC)=O)=O | C13H16N4O3
